*****************************************************************
* NXP BUK7K29-100E
*
* Polarity N-Channel
* Ratings 100V/2.450000E-002OHMS/29.5A
*
* Date Created Thu Apr 09 01:12:22 2015
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K29-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0180646215261946 TC=0.00978742150718507,2.92331053512371E-05
RBD 9 4 0.00153647683489113 TC=0.00978742150718507,2.92331053512371E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.51488102230395e-09
RG 1 2 1.58224

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	1802.37
+ -10	1800.14
+ -8	1796.83
+ -6	1790.62
+ -5	1782.74
+ -4	1751.18
+ -3	1751.87
+ -2	1492.99
+ -1	1211.73
+ -0.5	1038.27
+ -0.2	913.216
+ -0.1	909.639
+ 0	966.2086
+ 0.1	947.10456
+ 0.2	946.01432
+ 0.5	726.76444
+ 1	557.37692
+ 2	410.38968
+ 3	336.59356
+ 4	294.32464
+ 5	264.9166
+ 6	243.265
+ 8	213.04944
+ 10	192.94456
+ 12	177.79764
+ 15	160.92268
+ 16	156.10572
+ 20	141.51884
+ 25	128.07236
+ 30	117.96716
+ 50	93.4398



.MODEL MINT NMOS(Vto=3.79232406985224 Kp=0.989435e+002 Nfs=900000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=2.13311993131075e-12
+ N=1 M=0.64 VJ=0.53 Fc=0.5 Cjo=5.55044e-10 Tt=2.8464e-08)

.ENDS
