*****************************************************************
* NXP BUK7K6R2-40E
*
* Polarity N-Channel
* Ratings 40V/5.800000E-003OHMS/40A
*
* Date Created Mon Jul 01 04:56:59 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K6R2-40E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 571428571.428571 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00317018858237977 TC=0.00594301807415411,1.77339558596262E-05
RBD 9 4 0.00239108574585108 TC=0.00594301807415411,1.77339558596262E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 1.40162789983089e-09
RG 1 2 1.45372

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1662.95
+ -16	1661.95
+ -10	1658.54
+ -5	1642.8
+ -4	1617.59
+ -3	1635.5
+ -2	1401.28
+ -1	1179.87
+ -0.5	1054.43
+ -0.2	972.172
+ -0.1	969.846
+ 0	875.36198
+ 0.1	715.87464
+ 0.2	715.05712
+ 0.5	559.83232
+ 1	439.6498
+ 2	360.27248
+ 3	323.93904
+ 4	301.28936
+ 5	285.37452
+ 6	273.3438
+ 8	256.64844
+ 10	245.66932
+ 12	237.68376
+ 15	228.59928
+ 20	216.8182
+ 32	197.59704



.MODEL MINT NMOS(Vto=3.86460440613439 Kp=1.048236e+002 Nfs=960000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.92065246875369e-12
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=1.47880504e-09 Tt=1.3688e-08)

.ENDS
