* PWM MODULATOR
* Ernesto Gonzalez Urdaneta 12/02/2016

.SUBCKT PWM_MOD Vc PWM
V1 ramp 0 PULSE(0 1 0 {Tsw} 0 0 {Tsw})
B1 Vclim 0 V=if(V(Vc)>{DCmax},{DCmax},if(V(Vc)<{DCmin},{Dcmin},V(Vc)))
B2 PWM 0 V=if(V(Vclim)>V(ramp),1,0)


.param
+ Fsw = 100k
+ Tsw = 1/Fsw
+ VM = 1
+ DCmax = 1
+ DCmin = 0

.ends