*Oct 15, 2012
*ECN S12-2415, Rev. B
*File Name: SQM85N15-19_PS.txt, SQM85N15-19_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits

.SUBCKT SQM85N15-19 drain gate source 
M1 3 GX source source NMOS W= 9711623u L= 0.25u 
M2 source GX source drain PMOS W= 9711623u L= 6.548e-07 
R1 drain 3 1.596e-02 TC=8.277e-03 2.435e-05 
CGS GX source 3.953e-09 
CGD GX drain 4.824e-11 
RG gate GY 1m 
RTCV 100 source 1e6 TC=3.346e-04 -7.463e-06 
ETCV GX GY 100 200 1 
ITCV source 100 1u 
VTCV 200 source 1 
DBD source drain DBD 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 10e-8 
+ RS = 5.000e-04 KP = 3.526e-06 NSUB = 8.315e+16 
+ KAPPA = 2.593e-02 ETA = 2.417e-07 NFS = 1.169e+12 
+ LD = 0 IS = 0 TPG = 1) 
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 10e-8 
+NSUB = 1.933e+15 IS = 0 TPG = -1 ) 
**************************************************************** 
.MODEL DBD D ( 
+FC = 0.1 TT = 1.000e-08 T_MEASURED = 25 BV = 152 
+RS = 1.621e-03 N = 1.038e+00 IS = 1.574e-11 
+EG = 1.207e+00 XTI = 6.614e-01 TRS1 = 4.407e-03 
+CJO = 2.000e-09 VJ = 8.392e-01 M = 5.556e-01 ) 
.ENDS SQM85N15-19 


